US05135949
4-(1-Cyanocyclopentyl)-N-(4-methoxyphenyl)-benzamide
5.8 g. (27 mMol) 4-(1-cyanocyclopentyl)-benzoic acid are reacted with thionyl chloride and subsequently with 4-methoxyaniline as described in Example 1 to give 5.1 g. of the title compound; m.p. 163°-168° C.

reactant | 4-(1-cyanocyclopentyl)-benzoic acid | 27 mMol | C(#N)C1(CCCC1)C1=CC=C(C(=O)O)C=C1 | C13H13NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
product | 4-(1-Cyanocyclopentyl)-N-(4-methoxyphenyl)-benzamide | C(#N)C1(CCCC1)C1=CC=C(C(=O)NC2=CC=C(C=C2)OC)C=C1 | C20H20N2O2
